
.subckt FA a b c sum carry vdd gnd

.INCLUDE HA.sub
.INCLUDE OR.spice

x1 a b sum1 carry1 vdd gnd HA
x2 sum1 c sum carry2 vdd gnd HA
x3 carry carry1 carry2 vdd gnd OR

.ends FA

