
.SUBCKT NAND out a b vdd gnd 

MN1 out a node2 node2 nmos W={2*lamda}  L=lamda
MN2 node2 b gnd gnd nmos W={2*lamda}  L=lamda
MP1 out a vdd vdd pmos W={2*lamda}  L=lamda
MP2 out b vdd vdd pmos W={2*lamda}  L=lamda

.ends NAND